US05374764
To 1300 ml of a pyridine solution containing 204.0 g of 2-fluoro-5-nitroaniline was added 165.0 g of methanesulfonyl chloride under ice cooling, followed by stirring at room temperature for 24 hours. To the reaction solution was added 3000 ml of water, and the precipitate was collected by filtration, air-dried overnight and recrystallized from ethanol to give 230.0 g of N-(2-fluoro-5-nitrophenyl)methanesulfonamide as colorless needles.

reactant | pyridine | 1300 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-fluoro-5-nitroaniline | 204.0 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | methanesulfonyl chloride | 165.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 3000 ml | O | H2O
product | N-(2-fluoro-5-nitrophenyl)methanesulfonamide | 230.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])NS(=O)(=O)C | C7H7FN2O4S
